US04906633
A mixture of 12.86 g (50.0 mmol) of 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)benzaldehyde and 3.82 g (55.0 mmol) of hydroxylamine hydrochloride in 30 ml of ethanol, 30 ml of water and 30 ml of tetrahydrofuran was cooled in an ice-water bath. Sodium bicarbonate (5.04 g, 60.0 mmol) was added in small portions over 15 minutes. After stirring for 1 hour at ambient temperature, water (200 mmol) was added and the solid was filtered and dried. There was obtained 13.2 g (48.5 mmol, 97%) of 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)benzaldehyde oxime as a white solid; mp 167°-169° C.

reactant | 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)benzaldehyde | 50.0 mmol, 12.86 g | OC1=C(C=O)C=C(C=C1Br)C(C)(C)C | C11H13BrO2
reactant | hydroxylamine hydrochloride | 55.0 mmol, 3.82 g | Cl.NO
reactant | Sodium bicarbonate | 60.0 mmol, 5.04 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 200 mmol | O | H2O
product | 2-hydroxy-3-bromo-5-(1,1-dimethylethyl)benzaldehyde oxime | 48.5 mmol, 13.2 g, 97% | OC1=C(C=NO)C=C(C=C1Br)C(C)(C)C | C11H14BrNO2
